### PR TITLE
[Merged by Bors] - feat(RingTheory): improve `radical_eq_of_primeFactors_eq`

### PR DESCRIPTION
**Pull request by shuxuezhuyi**
The radicals of two elements are equal if and only if their sets of prime factors coincide.
Moves:
- UniqueFactorizationMonoid.radical_eq_of_primeFactors_eq -> UniqueFactorizationMonoid.radical_eq_iff_primeFactors_eq

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Radical.lean [hunk 1]
```diff
@@ -161,12 +161,13 @@ def radical (a : M) : M :=
 @[simp] theorem radical_one : radical (1 : M) = 1 := by simp [radical]
 @[deprecated (since := "2025-05-31")] alias radical_one_eq := radical_one
 
-lemma radical_eq_of_primeFactors_eq (h : primeFactors a = primeFactors b) :
-    radical a = radical b := by
-  simp only [radical, h]
+lemma radical_eq_iff_primeFactors_eq :
```
Comment (erdOne) [inline Mathlib/RingTheory/Radical.lean]: Can you add a deprecation? Thanks.

File: Mathlib/RingTheory/Radical.lean [hunk 2]
```diff
@@ -161,12 +161,13 @@ def radical (a : M) : M :=
...
+    radical a = radical b ↔ primeFactors a = primeFactors b :=
+  ⟨fun h => by rw [← primeFactors_radical, h]; exact primeFactors_radical,
+    fun h => by simp [radical, h]⟩
 
 theorem radical_eq_of_associated (h : Associated a b) : radical a = radical b :=
-  radical_eq_of_primeFactors_eq h.primeFactors_eq
+  radical_eq_iff_primeFactors_eq.2 h.primeFactors_eq
```
Comment (erdOne) [inline Mathlib/RingTheory/Radical.lean]:
```suggestion
  radical_eq_iff_primeFactors_eq.mpr h.primeFactors_eq
```

File: Mathlib/RingTheory/Radical.lean [hunk 3]
```diff
@@ -266,7 +267,7 @@ theorem radical_eq_one_iff : radical a = 1 ↔ a = 0 ∨ IsUnit a := by
 
 @[simp]
 lemma radical_radical : radical (radical a) = radical a :=
-  radical_eq_of_primeFactors_eq primeFactors_radical
+  radical_eq_iff_primeFactors_eq.2 primeFactors_radical
```
Comment (erdOne) [inline Mathlib/RingTheory/Radical.lean]:
```suggestion
  radical_eq_iff_primeFactors_eq.mpr primeFactors_radical
```

**Review by erdOne — COMMENTED** [review]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
